US07087576B2
Preparation of 2-(2-{4-[4-(2,4-dioxothiazolidin-5-ylidenemethyl)-phenoxy]-phenyl}-1-methoxycarbonylethylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
A solution of 5[4-(4-(2-amino-2-methoxycarbonylethyl)phenoxy)benzylidene]thiazolidin-2,4-dione hydrochloride (2.5 g, 5.76 mmol) and N-Boc-pyrolidin-2-carboxylic acid (1.238 g, 5.76 mmol) in dimethyl formamide (25 ml) was stirred for 60 minutes at 0° C. N,N′-Dicyclohexylcarbodiimide (1.423 g, 6.91 mmol) was added to it and stirring was continued for 10 h at ambient temperature. Water (200 ml) was added to the reaction mixture and stirred for 15 minutes. Ethyl acetate (200 ml) was added to the reaction mixture and stirring continued for another 15 minutes. The organic layer was separated, washed with water (75 ml), dried over anhydrous sodium sulphate and concentrated to afford the crude product, which was purified by column chromatography to furnish the required product (1.1 g, yield 32.4%).

reactant | 5[4-(4-(2-amino-2-methoxycarbonylethyl)phenoxy)benzylidene]thiazolidin-2,4-dione hydrochloride | 5.76 mmol, 2.5 g | Cl.NC(CC1=CC=C(OC2=CC=C(C=C3C(NC(S3)=O)=O)C=C2)C=C1)C(=O)OC
reactant | N-Boc-pyrolidin-2-carboxylic acid | 5.76 mmol, 1.238 g | C(=O)(OC(C)(C)C)N1C(CCC1)C(=O)O | C10H17NO4
reactant | N,N′-Dicyclohexylcarbodiimide | 6.91 mmol, 1.423 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Water | 200 ml | O | H2O
solvent | dimethyl formamide | 25 ml | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2-{4-[4-(2,4-dioxothiazolidin-5-ylidenemethyl)-phenoxy]-phenyl}-1-methoxycarbonylethylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.1 g, yield 32.4% | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC(CC1=CC=C(C=C1)OC1=CC=C(C=C1)C=C1C(NC(S1)=O)=O)C(=O)OC)=O | C30H33N3O8S
